US07932270B2
A mixture of benzyl 4-((R)-2-((6-chloro-2-(2-(tetrahydro-2H-pyran-2-yl)ethylamino)nicotinamido)methyl)pyrrolidin-1-yl)-4-oxobutylcarbamate (62 mg, 0.101 mmol), 2-cyanophenyl boronic acid (23 mg, 0.156 mmol), PdCl2(dppf)2 (11 mg, 0.02 mmol), K2CO3(92 g, 0.667 mmol) and anhydrous DMF (1 mL) was stirred at 125° C. for 1 hr. The mixture was filtered through the silica gel pad and washed with EtOAc. The filtrate was concentrated to dryness and purified on RP-HPLC using a mixture of acetonitrile and H2O to give benzyl 4-((R)-2-((6-(2-cyanophenyl)-2-(2-(tetrahydro-2H-pyran-2-yl)ethylamino)nicotinamido)methyl)pyrrolidin-1-yl)-4-oxobutylcarbamate (50 mg, 77%). LRMS (M+H+) m/z 653.3.

reactant | benzyl 4-((R)-2-((6-chloro-2-(2-(tetrahydro-2H-pyran-2-yl)ethylamino)nicotinamido)methyl)pyrrolidin-1-yl)-4-oxobutylcarbamate | 0.101 mmol, 62 mg | ClC1=NC(=C(C(=O)NC[C@@H]2N(CCC2)C(CCCNC(OCC2=CC=CC=C2)=O)=O)C=C1)NCCC1OCCCC1 | C30H40ClN5O5
reactant | 2-cyanophenyl boronic acid | 0.156 mmol, 23 mg | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | K2CO3 | 0.667 mmol, 92 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf)2 | 0.02 mmol, 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | benzyl 4-((R)-2-((6-(2-cyanophenyl)-2-(2-(tetrahydro-2H-pyran-2-yl)ethylamino)nicotinamido)methyl)pyrrolidin-1-yl)-4-oxobutylcarbamate | 50 mg, 77% | C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)NC[C@@H]2N(CCC2)C(CCCNC(OCC2=CC=CC=C2)=O)=O)C=C1)NCCC1OCCCC1 | C37H44N6O5
